US05364866
(E) Synthesis of 4-[1-(Phenylsulfonyl)-1H-indazol-3-yl]-1-piperazinecarbonitrile
To a stirred mixture of 3-(4-methyl-1-piperazinyl)-1-phenylsulfonyl-1H-indazole (237 g, 0.67 mol), K2CO3 (102 g, 0.74 mol) and dimethylsulfoxide (DMSO, 2000 ml), under nitrogen, was added cyanogen bromide (72 g, 0.68 mol) dissolved in DMSO (525 ml). The reaction was stirred at ambient temperature for 5.5 hours and was then poured into H2O (7 1). The solid, which precipitated from solution, was collected by filtration and was washed well with H2O affording 168 g (68%) of product. A 5.2 g sample was recrystallized twice from ethanol-H2O yielding 4.0 g of 4-[1-(phenylsulfonyl)-1H-indazol-3-yl]-1-piperazinecarbonitrile, m.p. =178°-180° C.

reactant | 3-(4-methyl-1-piperazinyl)-1-phenylsulfonyl-1H-indazole | 0.67 mol, 237 g | CN1CCN(CC1)C1=NN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C18H20N4O2S
reactant | K2CO3 | 0.74 mol, 102 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 0.68 mol, 72 g | N#CBr | CBrN
reactant | H2O | O | H2O
solvent | DMSO | 525 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 2000 ml | CS(=O)C | C2H6OS
product | 4-[1-(Phenylsulfonyl)-1H-indazol-3-yl]-1-piperazinecarbonitrile | C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C#N | C18H17N5O2S
